US07495001B2
B] 2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol
0.60 g (1.78 mmol) of [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester (prepared from 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 9E]) in analogy to the sequences described in examples 4H] to 4J]) was dissolved in 10 ml of abs. THF and cooled down to 0° C. It was then reacted with 3.18 nml of DIBAL-H-solution (1.2 M in toluene) and the mixture stirred for 2 h at room temperature. Careful quenching with ice/THF/H2O, twofold extraction with AcOEt, washing with diluted HCl solution and brine, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by crystallization from dichloromethane/n-heptane to deliver finally 0.53 g of the title compound as light yellow solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester | 1.78 mmol, 0.60 g | COC(CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C17H15F3N2O2
reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | DIBAL-H | 1.2 M | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | C1(CC1)C1=NC(=NC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
